US07078369B2
Methyl 2-amino-6-[([(4,6-dimethoxy-1,3,5-triazin-2-yl)amino]carbonylamino)-sulfonyl]benzoate
50 mg (113 μmol) of methyl 2-[([(4,6-dimethoxy-1,3,5-triazin-2-yl)amino]-carbonylamino)sulfonyl]-6-nitrobenzoate are suspended in a mixture of 3 ml of methanol/dimethylformamide (5:1), admixed with 10 mg of palladium on activated carbon (5%) and 1 mg (8.20 μmol) of sodium (meta)vanadate and hydrogenated under atmospheric pressure and at room temperature for 3 h. The mixture is then filtered off, the filtrate is concentrated and the residue is taken up in water and adjusted to pH 1.5 using 3 N aqueous hydrochloric acid solution. The precipitate is stirred in an ice-bath for 10 min and then filtered off with suction and dried under reduced pressure. This gives 41 mg (87% of theory) of methyl 2-amino-6-[([(4,6-dimethoxy-1,3,5-triazin-2-yl)amino]carbonylamino)sulfonyl]benzoate of m.p. 129-134° C. (decomp.).

reactant | methyl 2-[([(4,6-dimethoxy-1,3,5-triazin-2-yl)amino]-carbonylamino)sulfonyl]-6-nitrobenzoate | 113 μmol, 50 mg | COC1=NC(=NC(=N1)OC)NC(=O)NS(=O)(=O)C1=C(C(=O)OC)C(=CC=C1)[N+](=O)[O-] | C14H14N6O9S
solvent | methanol dimethylformamide | 3 ml | CO.CN(C=O)C
catalyst | palladium on activated carbon | 10 mg | [Pd] | Pd
catalyst | sodium (meta)vanadate | 8.20 μmol, 1 mg | [O-][V](=O)=O.[Na+]
product | Methyl 2-amino-6-[([(4,6-dimethoxy-1,3,5-triazin-2-yl)amino]carbonylamino)-sulfonyl]benzoate | NC1=C(C(=O)OC)C(=CC=C1)S(=O)(=O)NC(=O)NC1=NC(=NC(=N1)OC)OC | C14H16N6O7S
